US04472400
1-piperidinomethyl-4-n-propyl[1,2,4]triazolo[4,3-a]quinazolin-5(4H)-one hydrochloride monohydrate
5.0 g of 4-allyl-1-piperidinomethyl[1,2,4]triazolo[4,3-a]quinazolin-5(4H)-one, prepared as described in Example 33, were suspended in 300 ml of a 1-1 chloroform-ethanol mixture and 500 mg of 5% palladized carbon were added thereto. The resultant mixture was hydrogenated at room temperature for 1.5 hours until the calculated amount of hydrogen had been absorbed and the mixture was filtered. The filtrate was evaporated to dryness to obtain 4.3 g of the free base as a colorless solid. The free base was converted into the hydrochloride salt, monohydrate analagously to Example 1. The product thus obtained was identical with respect to melting point, IR and NMR to the product obtained in Example 1.

reactant | 4-allyl-1-piperidinomethyl[1,2,4]triazolo[4,3-a]quinazolin-5(4H)-one | 5.0 g | C(C=C)N1C=2N(C3=CC=CC=C3C1=O)C(=NN2)CN2CCCCC2 | C18H21N5O
reactant | hydrogen | [H][H] | H2
reactant | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
product | 1-piperidinomethyl-4-n-propyl[1,2,4]triazolo[4,3-a]quinazolin-5(4H)-one hydrochloride monohydrate | 4.3 g | O.Cl.N1(CCCCC1)CC1=NN=C2N1C1=CC=CC=C1C(N2CCC)=O | InChI=1S/C18H23N5O.ClH.H2O/c1-2-10-22-17(24)14-8-4-5-9-15(14)23-16(19-20-18(22)23)13-21-11-6-3-7-12-21;;/h4-5,8-9H,2-3,6-7,10-13H2,1H3;1H;1H2
